US08207344B2
2: 4-(1′-Methanesulfonyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-5-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester
To a 3-necked flask is added 1′-methanesulfonyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-5-ol (254.3 g, 1.0 mol) followed by 4-(1-methanesulfonyloxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (396.1 g,1.34 mol) and potassium carbonate (248.8 g, 1.8 mol). Dimethylformamide (3800 mL) is added and the mixture is heated at 80˜90° C. for 6 h. 3810 mL of water are added dropwise at 70˜80° C. The mixture is cooled slowly to 20˜30° C. and filtered. The cake is slurried with 1000 mL of water, concentrated and dried under vacuum to provide 407 g of a solid with 97.13% HPLC purity.

reactant | 1′-methanesulfonyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-5-ol | 1.0 mol, 254.3 g | CS(=O)(=O)N1CCC(=CC1)C1=NC=C(C=C1)O | C11H14N2O3S
reactant | 4-(1-methanesulfonyloxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.34 mol, 396.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C)OS(=O)(=O)C | C13H25NO5S
reactant | potassium carbonate | 1.8 mol, 248.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethylformamide | 3800 mL | CN(C=O)C | C3H7NO
solvent | water | 3810 mL | O | H2O
product | 4-(1′-Methanesulfonyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-5-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 407 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=CC(=NC1)C=1CCN(CC1)S(=O)(=O)C | C22H33N3O5S
